US06231833B1
3-[(7R,9aS)-2,3,4,6,7,8,9,9a-Octahydro-1H-pyrido[1,2-a]-pyrazin-7-ylmethyl]-3H-benzoxazol-2-one
A solution of 3.1 g (8.01 mmol) of 3-[(7R,9aS)-2-BOC-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]-pyrazin-7-ylmethyl]-3H-benzooxazol-2-one in 40 mL of chloroform was stirred with excess HCl (g) in ethyl ether for 2 h at ambient temperature. The solvent was evaporated to give 2.3 g (100%) of the title compound dihydrochloride which was used for subsequent reactions without further purification.

reactant | 3-[(7R,9aS)-2-BOC-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]-pyrazin-7-ylmethyl]-3H-benzooxazol-2-one | 8.01 mmol, 3.1 g | C(=O)(OC(C)(C)C)N1C[C@H]2N(CC1)C[C@@H](CC2)CN2C(OC1=C2C=CC=C1)=O | C21H29N3O4
reactant | HCl | Cl | ClH
solvent | chloroform | 40 mL | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl ether | C(C)OCC | C4H10O
product | 3-[(7R,9aS)-2,3,4,6,7,8,9,9a-Octahydro-1H-pyrido[1,2-a]-pyrazin-7-ylmethyl]-3H-benzoxazol-2-one | 2.3 g, 100% | C1[C@H]2N(CCN1)C[C@@H](CC2)CN2C(OC1=C2C=CC=C1)=O | C16H21N3O2
